US08373159B2
i) 3,6-Dibromo-9-triphenylsilylcarbazole
NaH (60% dispersion in oil, 1.5 g, 37 mmol) is added slowly to a cold solution (0° C.) of 3,6-dibromocarbazole (10.4 g, 31 mmol) in dry THF (1000 ml). After stirring for two hours, a solution of ClSiPh3 (18.7 g, 62 mmol) in dry THF (200 ml) is added at 0° C. The mixture is stirred overnight, and saturated NH4Cl solution is added. The resulting salt is filtered off, and the organic phase is separated from the aqueous phase. The aqueous phase is extracted with CH2Cl2. The organic phase is washed twice with water. The combined organic phases are dried over Na2SO4. Filtration through SiO2 gives the desired product (quantitative).

reactant | NaH | 37 mmol, 1.5 g | [H-].[Na+]
reactant | 3,6-dibromocarbazole | 31 mmol, 10.4 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | ClSiPh3 | 62 mmol, 18.7 g | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15ClSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 3,6-Dibromo-9-triphenylsilylcarbazole | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H21Br2NSi
